US07838543B2
Step 2. 4-Cyclopentyl-benzoic Acid
A solution of 4-cyclopent-1-enyl-benzoic acid (2.6 g, 13.8 mmol) in EtOH (20 mL) is hydrogenated with 10% Pd/C (0.25 g) at 20 psi H2 for 2 h. It is filtered through Celite® and concentrated to give 2.46 g (95%) of the title compound. LC/MS (m/z): calcd for C12H14O2 (M−H)−: 189.2; found: 189.2.

reactant | 4-cyclopent-1-enyl-benzoic acid | 13.8 mmol, 2.6 g | C1(=CCCC1)C1=CC=C(C(=O)O)C=C1 | C12H12O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 4-Cyclopentyl-benzoic Acid | 2.46 g, 95% | C1(CCCC1)C1=CC=C(C(=O)O)C=C1 | C12H14O2
